data/mechanism_extracts/EurJOC/10.1002_ejoc.202201032.json
{"doi": "10.1002_ejoc.202201032", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical vicinal fluoroselenenylation of alkenes using diaryl diselenides and Et3N·3HF to give β-fluoroselenides.", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of diaryl diselenide (ArSeSeAr) to its radical cation, which fragments into an ArSe• radical and an ArSe+ cation; the alkene-derived carbon radical is then further oxidized at the anode to a selenonium cation that is trapped by fluoride.", "key_intermediates": [{"name": "diaryl diselenide radical cation (ArSeSeAr•+)", "smiles": null, "role": "transient"}, {"name": "aryl selenium radical (ArSe•)", "smiles": "[Se][c]1ccccc1", "role": "reactive"}, {"name": "aryl selenium cation (ArSe+)", "smiles": null, "role": "transient"}, {"name": "β-selenyl carbon-centered radical (R1R2C•-CH2SeAr)", "smiles": null, "role": "reactive"}, {"name": "three-membered seleniranium/selenonium cation", "smiles": null, "role": "reactive"}, {"name": "β-fluoroselenide product", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes ArSeSeAr to its radical cation, which fragments to ArSe• + ArSe+; ArSe• adds across the alkene to give a β-selenyl C-radical, which is further oxidized at the anode to a selenonium (seleniranium) cation, and fluoride from Et3N·3HF opens it to deliver the β-fluoroselenide.", "rate_determining_step": null, "probe_reagents": [{"name": "(1-(2-phenylcyclopropyl)-vinyl)benzene (radical clock 29)", "smiles": "C(=C)(c1ccccc1)C1CC1c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened product 30 obtained in 74% yield, indicating involvement of a selenium radical adding to the alkene."}, {"name": "Dark control (electrolysis without light)", "smiles": null, "purpose": "other", "observation": "Reaction still proceeded in >99% yield, excluding photochemical generation of ArSe• and supporting anodic oxidation as the radical source."}, {"name": "No-electricity control", "smiles": null, "purpose": "other", "observation": "No product formed, confirming electrochemical requirement."}, {"name": "Cyclic voltammetry of 1 and 2", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peaks: α-methylstyrene 2.48 V vs SCE; PhSeSePh 1.91 V vs SCE — diselenide is oxidized first under electrolysis."}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Reductive homo-coupling of the ArSe+ cation at the cathode is proposed to regenerate ArSeSeAr, closing a redox loop. An alternative photochemical pathway (visible-light homolysis of PhSeSePh to ArSe•) was explicitly excluded by the dark experiment."}
